US08258130B2
A solution of benzoyl chloride (0.85 mmol) in anhydrous DCM (2 mL) is added drop-wise to a solution of 4-methyl-2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-amino-indol-1-yl)-amide (0.47 mmol) and triethylamine (1.41 mmol) in anhydrous DCM (16 mL) and the mixture is stirred at rt overnight. The reaction mixture is concentrated in vacuo. The residue is dissolved in EtOAc (25 mL), and washed with water (2×20 mL) and brine (10 mL). The organic layer is dried (Na2SO4), filtered and concentrated. The residue is triturated with EtOAc to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-benzoylamino-indol-1-yl)-amide (95 mg, 43%) as a solid. MS: 466 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.99(s, 3H), 6.72(d, H), 7.38-7.48(m, H), 7.48-7.80(m, 6H), 7.83-8.016(m, 3H), 8.07-8.20(m, H), 8.23-8.35(m, 2H), 9.24(s, H), 10.25(br, H).

reactant | benzoyl chloride | 0.85 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-methyl-2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-amino-indol-1-yl)-amide | 0.47 mmol | NC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H16FN5O
reactant | triethylamine | 1.41 mmol | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 16 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-benzoylamino-indol-1-yl)-amide | 95 mg, 43% | C(C1=CC=CC=C1)(=O)NC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C27H20FN5O2
